US07524845B2
Preparation of [3-(bromomethyl)-pyrazolo[3,4-b]pyridine-1-yl)acetic acid ethyl ester:
A mixture of (3-methyl-pyrazolo[3,4-b]pyridine-1-yl)ethyl acetate (2.5 mmol, 1 eq.), NBS (3.0 mmol, 1.2 eq.), and benzoly peroxide (0.05 mmol, 0.02 eq.) in 10 mL of CCl4 was refluxed for 1.5 h. The resultant mixture was cooled to rt, and diluted with 500 mL of EtOAc. The resultant solution was then washed with 100 mL of sat. sodium bicarbonate aqueous solution, brine solution, dried over anhydrous sodium sulfate, filtered and concentrated in vacuo. The crude residue was purified by silica gel chromatography (20% EtOAc in hexane to 35% EtOAc in hexane) to provide 450.2 mg of the desired product: HPLC retention time=2.50 minutes (Agilent Zorbax SB-C18, 2.1×50 mm, 5μ, 35° C.) using 1 ml/min flow rate, a 2.5 minute gradient of 0% to 100% B with a 1.1 minute wash at 100% B (A=0.1% formic acid /5% acetonitrile /94.9% water, B=0.1% formic acid /5% water/94.9% acetonitrile); MS (ES) M+H expect=298.0, found=298.3.

reactant | (3-methyl-pyrazolo[3,4-b]pyridine-1-yl)ethyl acetate | 2.5 mmol, 1 eq. | C(C)(=O)OCCN1N=C(C=2C1=NC=CC2)C | C11H13N3O2
reactant | NBS | 3.0 mmol, 1.2 eq. | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | EtOAc | 500 mL | CCOC(=O)C | C4H8O2
solvent | CCl4 | 10 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | [3-(bromomethyl)-pyrazolo[3,4-b]pyridine-1-yl)acetic acid ethyl ester | 450.2 mg | C(C)OC(CN1N=C(C=2C1=NC=CC2)CBr)=O | C11H12BrN3O2
